US06498165B1
Step D: (S)-1-(3-aminophenyl)-1-aminoethane
(S)-1-(3-nitrophenyl)-1-aminoethane (approx. 80% pure, 75.2 mg) was dissolved in THF (2 mL) and 10% Pd/C (13.8 mg) was added. The system was fitted with a balloon of hydrogen and purged 3×, the mixture left stirring 16 h at room temperature. Filtered the solution through Celite®, washing thoroughly with methanol, and the solvent removed in vacuo. The residue was eluted on silica gel (3-6%(2M NH3 in MeOH)/CH2Cl2) to yield 23.7 mg of the title compound. 1H NMR (500 MHz, CDCl3): δ 7.13 (t, J=7.7 Hz, 1H); 6.74 (m, 1H); 6.71 (m, 1H); 6.58 (m, 1H); 4.03 (q, J=6.7 Hz, 1H); 3.68 (br s, 2H); 1.37 (d, J=6.7 Hz, 3H).

reactant | (S)-1-(3-nitrophenyl)-1-aminoethane | 75.2 mg | [N+](=O)([O-])C=1C=C(C=CC1)[C@H](C)N | C8H10N2O2
reactant | hydrogen | [H][H] | H2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 13.8 mg | [Pd] | Pd
product | (S)-1-(3-aminophenyl)-1-aminoethane | 23.7 mg | NC=1C=C(C=CC1)[C@H](C)N | C8H12N2
